US07470679B2
N-(6-Fluoro-3-formylpyridin-2-yl)pivalamide
N-(6-fluoropyridin-2-yl)pivalamide(1.67 g, 8.5 mmol) was dissolved in THF(15 mL) at room temperature, and the colorless solution was cooled to −78° C., followed by dropwise addition of t-BuLi (10.3 mL, 1.7M in heptane, 17.4 mmol) under nitrogen gas over 10 min. The resulting yellow solution was continued stirring at −78° C. for 3 hr, followed by dropwise addition of DMF(2.0 mL, 25.5 mmol) over 5 min. The light yellow solution was stirred for additional 30 min at −78° C. Thus the mixture was quenched with saturated NH4Cl (30 mL), partitioned between H2O/EtOAc (100 mL/100 mL). After separation, the organic phase was washed with brine(30 mL), dried over MgSO4, concentrated on rotary vacuum, and purified on flash chromatography eluting with 25˜50% EtOAc/hexanes (1400 mL) to afford an expected product, as a white solids(343 mg, 18% yield), plus the recovered starting material(622 mg); 1H NMR (400 MHz, CDCl3) δppm 1.23-1.30 (s, 9H), 8.12 (s, 1H), 8.18-8.27 (m, 2H), 10.13 (s, 1H); Mass spec. 225.13 (MH+), Calc. for C11H13FN2O2 224.1.

reactant | N-(6-fluoropyridin-2-yl)pivalamide | 8.5 mmol, 1.67 g | FC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H13FN2O
reactant | t-BuLi | 17.4 mmol, 1.7M, 10.3 mL | [Li]C(C)(C)C
reactant | DMF | 25.5 mmol, 2.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(6-Fluoro-3-formylpyridin-2-yl)pivalamide | FC1=CC=C(C(=N1)NC(C(C)(C)C)=O)C=O | C11H13FN2O2
